US09382265B2
(f) 5-chloro-N-(((3S,3aS)-1-oxo-7-(2-oxooxazol-3-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide
Using compound (3S,3aS)-3-(aminomethyl)-7-(2-oxooxazol-3-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one, 5-chlorothiophene-2-carboxylic acid (0.12 g, 0.737 mmol), HATU (0.38 g, 0.982 mmol), and Et3N (0.15 g, 1.473 mmol) as starting materials, DCM (10 ml) and DMF (2 ml) as a mixed solvent, preparation following the method as described in Example 11 (g) afforded white solid 0.17 g, yield 76.9%.

reactant | (3S,3aS)-3-(aminomethyl)-7-(2-oxooxazol-3-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one | NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(OC=C3)=O)=O | C14H13N3O5
reactant | 5-chlorothiophene-2-carboxylic acid | 0.737 mmol, 0.12 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | HATU | 0.982 mmol, 0.38 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1.473 mmol, 0.15 g | CCN(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-(((3S,3aS)-1-oxo-7-(2-oxooxazol-3-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide | 0.17 g, yield 76.9% | ClC1=CC=C(S1)C(=O)NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(OC=C3)=O)=O | C19H14ClN3O6S
